2133-05-14 07:27:00 Physician Resident Progress Note
TITLE: CCU TRANSFER ACCEPT NOTE
   Chief Complaint: chest pain
   24 Hour Events:
   Please see admission and transfer H&Ps and detailed daily notes from
   the CCU and [**Hospital Unit Name 2852**] teams. The patient is well-known to the CCU team.
   While on the floor, the patient was auto-diuresing while awaiting CABG
   planned for Friday [**2133-5-14**]. He had intermittent chest pain over the
   course of the day yesterday and overnight, and was triggered for this
   indication this morning. The interventional fellow and attending were
   made aware and the patient was taken to the cath lab for IABP
   placement, but he ultimately refused this and is transferred to the CCU
   for further care while awaiting CABG.
   .
   On arrival to the CCU, the patient denies any chest pain. He attributes
   his episode of chest pain today to moving around in bed and not to his
   cardiac status.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Heparin Sodium - [**2133-5-14**] 05:00 AM
   Other medications:
   TRANSFER MEDICATIONS:
   MED Docusate Sodium 100 mg PO BID
   MED Atorvastatin 80 mg PO DAILY
   MED Finasteride 5 mg PO DAILY
   MED Aspirin EC 325 mg PO DAILY
   MED Calcium Carbonate 500 mg PO QID:PRN indigestion
   MED Ondansetron 4 mg IV Q8H:PRN nausea
   MED Acetaminophen 500 mg PO Q6H
   MED Senna 1 TAB PO BID
   MED Bisacodyl 10 mg PO DAILY hold for >2 BM/day
   MED Polyethylene Glycol 17 g PO DAILY:PRN constipation
   MED Capsaicin 0.025% 1 Appl TP QID
   MED Metoprolol Tartrate 12.5 mg PO TID hold for SBP <95 or HR <55
   MED Insulin SC  (per Insulin Flowsheet) Sliding Scale & Fixed Dose
   MED Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze, cough, SOB
   MED Ipratropium Bromide Neb 1 NEB IH Q6H
   MED Pantoprazole 40 mg PO Q12H please give 30 minute prior to eating
   MED Gabapentin 300 mg PO Q 12H
   MED Heparin 5000 UNIT SC TID
   Flowsheet Data as of  [**2133-5-14**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 73 (73 - 83) bpm
   BP: 109/55(68) {109/55(68) - 109/55(68)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71 kg
   Height: 66 Inch
             Total In:
             2 mL
   PO:
             TF:
   IVF:
   2 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    850 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: NC/AT, PERRL/EOMI, sclera anicteric, MMM
   CV: RRR, nl S1-S2, no m/r/g
   PULM: poor inspiratory effort, + bibasilar crackles
   BACK: midline staples, no bleeding, pus, drainage. +ecchymosis along
   lower back
   ABD: soft obese NTND tympanic, normoactive BS
   EXT: warm, dry, [**12-5**]+ BLE pitting edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   396 K/uL
   9.9 g/dL
   134 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   36 mg/dL
   94 mEq/L
   138 mEq/L
   29.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2133-5-8**]  01:31 PM
                             [**2133-5-8**]  02:08 PM
                             [**2133-5-8**]  09:53 PM
                             [**2133-5-9**]  05:37 AM
                             [**2133-5-9**]  01:25 PM
                             [**2133-5-10**]  02:26 AM
                             [**2133-5-10**]  02:48 AM
                             [**2133-5-10**]  06:11 PM
                             [**2133-5-11**]  05:47 AM
                             [**2133-5-12**]  04:15 AM
   WBC
   15.2
   11.2
   10.7
   12.7
   11.0
   Hct
   28.3
   25.1
   28.6
   29.7
   29.3
   Plt
   [**Telephone/Fax (3) 6525**]91
   396
   Cr
   2.1
   2.2
   2.1
   2.1
   1.8
   1.6
   1.7
   TropT
   1.48
   1.85
   1.88
   1.91
   1.86
   TCO2
   20
   30
   Glucose
   180
   114
   83
   79
   66
   140
   134
   Other labs: PT / PTT / INR:15.5/53.1/1.4, CK / CKMB /
   Troponin-T:437/14/1.86, Differential-Neuts:82.3 %, Band:1.0 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:1.5 %, Lactic Acid:1.5 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE I
 KNOWLEDGE DEFICIT
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 FALL(S)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI. Cath showed 3vCAD, now awaiting CABG,
   but with persistent intermittent chest pain without ECG changes.
   Refused IABP.
   # CAD: Cath showed 3VD. Plan for CABG by CT-surgery. With persistent
   intermittent chest pain without ECG changes. Refused IABP.
   - appreciate CT-surgery recs, on schedule for 2nd operation today
   - continue full-dose ASA, high-dose statin, heparin gtt, low-dose BB
   - consider nitro gtt, titrate to chest pain free, as tolerated by BP
   - maintain MAP >60
   # PUMP: EF now 35-40% reduced from 55% on [**2133-5-6**] likely related to
   ischemia.  Pt was auto-diuresing on floor. CXR pending today AM.
   - cont goal of 500cc-1L, lasix prn
   # RHYTHM: NSR, no known h/o arrhythmia
   -continue to monitor on telemetry
   # LOC/delerium: No further episodes. Neurology believes [**1-5**] positional
   orthostatic changes, and believe sz unlikely. EEG showed mild
   encephalopathy, but no seizure activity.  CT head negative. Gabapentin
   dose could have been contributing
 now renally dosed. Possible sleep
   apnea.
   - trial of CPAP
   - f/u neuro recs, if any
   - trazadone qhs and haldol IV or seroquel prn for agitation
   - renally dose neurontin
   # PULM: Right sided pleural eff appears worse today. Sats remains
   stable. Pt finished 5 day course of levoflox for CAP.
   - Goal O2 sats >92%
   - Cont diuresis as above
   - standing nebs
   # s/p lumbar spine surgery: pain well-controlled . Neuro [**Doctor First Name **] plans to
   cont following
   - appreciate neurosurg involvement
   - cont gabapentin for peripheral neuropathy, also capsaicin
   - standing tylenol
   - oxycodone prn
   # CRI: Cr was 1.7 likely [**1-5**] to decreased forward flow. Pt also was
   being diuresed and received contrast duirng cath.
   - renally dose meds and avoid nephrotoxins
   - cont to monitor
   # DM: Pt episodes of hypoglycemia. Decreased NPH to 10 and 70/30 to 50.
   Pt with poor po intake.
   - cont basal NPH and Novolin, sliding scale insulin
   #HTN
 BP remains stable, with episodes of hypotension
   - cont  metoprolol to 12.5mg
   - hold imdur
   - hold HCTZ to allow room for uptitration of BB
   # constipation - aggressive bowel regimen
   #BPH
   -cont finasteride
   FEN: NPO for CABG, Speech and Swallow eval normal
   PPx - Hepairn gtt, PPI, bowel regimen
   Code status - FULL CODE
   Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   DISPO: to CT-Surgery today
   ICU Care
   Nutrition: NPO for CABG
   Speech and Swallow eval normal
   Glycemic Control:  insulin SS
   Lines:
   20 Gauge - [**2133-5-14**] 06:38 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: iv protonix
   Communication:  [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   Code status: Full code
   Disposition: to CT-Surgery today